US06503925B1
4-Fluoro-3-nitro-t-butylbenzene (1f):
To a cold (5° C.) suspension of 4-t-butylaniline in a mixture of conc. hydrochloric acid (25 ml) and water (25 ml) was added a solution of sodium nitrite (7.6 g, 0.11 mol) in water (10 ml) keeping the temperature at 5-7° C. At the end of the addition, the mixture was stirred for additionally 15 min, whereafter a solution of sodium tetrafluoroborate (15.4 g, 0.14 mol) in water (30 ml) was added dropwise, maintaining the temperature at 5-8° C. After another 15 min at 5° C. the diazonium salt was filtered off, dried with suction and washed with diethyl ether (yield: 21 g). The diazonium salt was decomposed by gentle heating to 120° C. on an oil-bath. The product was distilled off and collected to yield if (11.2, 73.5%).

reactant | 4-t-butylaniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | sodium nitrite | 0.11 mol, 7.6 g | N(=O)[O-].[Na+]
reactant | sodium tetrafluoroborate | 0.14 mol, 15.4 g | F[B-](F)(F)F.[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 4-Fluoro-3-nitro-t-butylbenzene | FC1=C(C=C(C=C1)C(C)(C)C)[N+](=O)[O-] | C10H12FNO2
